US07906645B2
N-(3,4-Dichlorophenyl)-4-(3-piperidin-1-ylpropyl)piperazine-1-carboxamide
A solution of 3,4-dichlorophenylisocyanate (0.3 g; 1.5 mmol) in a mixture of DMF (0.5 ml) and dichloromethane (5 ml) was added to 1-(3-piperidinopropyl)-piperazine (0.21 g; 1 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight.

reactant | 3,4-dichlorophenylisocyanate | 1.5 mmol, 0.3 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 1-(3-piperidinopropyl)-piperazine | 1 mmol, 0.21 g | N1(CCCCC1)CCCN1CCNCC1 | C12H25N3
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(3,4-Dichlorophenyl)-4-(3-piperidin-1-ylpropyl)piperazine-1-carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CCCN1CCCCC1 | C19H28Cl2N4O
